US05194178
0.2 mmol of Pd(PPh3)2Cl2 and 0.1 mmol of CuI are added to a mixture of 0.01 mol of 4-pentylphenylacetylene, 0.01 mol of 3-fluoro-4-chloro-iodobenzene and 40 ml of diethylamine at room temperature and stirred for 12 hours. After completion of the reaction, the suspension is filtered, and the filtrate is concentrated by evaporation. Purification by chromatography and/or crystallization gives 4-pentyl-3'-fluoro-4'-chloro tolan having C 49.6° I.

reactant | 4-pentylphenylacetylene | 0.01 mol | C(CCCC)C1=CC=C(C=C1)C#C | C13H16
reactant | 3-fluoro-4-chloro-iodobenzene | 0.01 mol | FC=1C=C(C=CC1Cl)I | C6H3ClFI
catalyst | Pd(PPh3)2Cl2 | 0.2 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.1 mmol | [Cu]I
solvent | diethylamine | 40 ml | C(C)NCC | C4H11N
product | 4-pentyl-3'-fluoro-4'-chloro tolan | C(CCCC)C1=CC=C(C=C1)C#CC1=CC(=C(C=C1)Cl)F | C19H18ClF
